US09120749B2
{6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[trans-4-(methylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure A-2, tert-butyl trans-4-[6-(3-chloro-4-hydroxy-5-methoxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexyl(methyl)carbamate (0.135 mmol) was reacted with TFA (2 mL) to afford the desired product (41 mg, 63% over two steps) as a yellow solid: 1H NMR (300 MHz, CD3OD+TFA-d) δ 9.34 (s, 1H), 8.48 (s, 1H), 8.31 (d, J=8.7 Hz, 1H), 7.99 (d, J=8.7 Hz, 1H), 7.35 (s, 1H), 7.27 (s, 1H), 4.50 (s, 1H), 4.00 (s, 3H), 2.88-2.81 (m, 1H), 2.74 (s, 3H), 2.54-2.47 (m, 2H), 2.38-2.27 (m, 2H), 1.88-1.77 (m, 2H), 1.62-1.56 (m, 2H), 1.34-1.16 (m, 4H); ESI MS m/z 480 [C27H30ClN3O3+H]+; HPLC>99% (AUC), tR=9.45 min.

reactant | tert-butyl trans-4-[6-(3-chloro-4-hydroxy-5-methoxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexyl(methyl)carbamate | 0.135 mmol | ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)N(C(OC(C)(C)C)=O)C | C32H38ClN3O5
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[trans-4-(methylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone | 41 mg, 63% | ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)NC | C27H30ClN3O3
